Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ w/ metastatic triple negative right-sided
breast ca on doxil who p/w new onset severe headaches associated
w/ N/V. Headache is worst laying down, improves on standing. No
vision changes, no weakness but feels fatigued. No CP/SOB. No
coughing. No difficulty walking except feels fatigued. She
presented to the ED where she had Benadryl, reglan, Compazine 
and
acetaminophen with improvement of her headache. Her neuro exam 
in
the ED was reportedly benign. She had an MRI and was transferred
to ___. 

On arrival to ___, pt had no new c/o. I informed her that her
MRI revealed a new mass associated with edema. 

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: RUL wedge resection of RUL metastatic nodule

PAST MEDICAL HISTORY: 
1.  Right breast cancer diagnosed at age ___ with recurrent
metastatic disease
2.  Hypercholesterolemia
3.  Four cycles of Cytoxan and Adriamycin followed by four 
cycles
of Taxol
4.  Radiation therapy to the breast followed by ___ years of
tamoxifen
5.  Early menopause

 
Social History:
___
Family History:
Her family history is  positive in a sister diagnosed at age ___ 
with breast cancer who is alive and well at ___.  Her mother had 
lung cancer, was a nonsmoker and died at ___ in ___.  Her 
father died at age ___. She has one sister ___ and a brother ___.

 
Physical Exam:
VS: 98.2 PO 131 / 78 77 18 98 RA
GENERAL: Pleasant, lying in bed comfortably with her husband at
bedside
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops 
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: SNT/ND
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN III-XII intact, motor and sensory
function intact b/l upper and lower extremities, no dysmetria, 
no
disdiadokokinesia 
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymoses
 
Pertinent Results:
___ 05:35AM BLOOD WBC-3.7* RBC-3.86* Hgb-12.4 Hct-37.8 
MCV-98 MCH-32.1* MCHC-32.8 RDW-13.5 RDWSD-48.0* Plt ___
___ 07:35PM BLOOD WBC-4.0 RBC-3.77* Hgb-12.3 Hct-36.7 
MCV-97 MCH-32.6* MCHC-33.5 RDW-13.4 RDWSD-47.9* Plt ___
___ 05:35AM BLOOD Glucose-142* UreaN-15 Creat-0.7 Na-141 
K-4.3 Cl-104 HCO3-26 AnGap-11
___ 07:35PM BLOOD Glucose-96 UreaN-15 Creat-0.8 Na-138 
K-4.0 Cl-97 HCO3-28 AnGap-13
___ 07:35PM BLOOD ALT-15 AST-19 AlkPhos-88 TotBili-0.3
___ 05:35AM BLOOD Calcium-9.1 Phos-2.9 Mg-2.2
___ 07:35PM BLOOD Albumin-4.3 Calcium-9.2 Phos-4.0 Mg-2.3

MRI head

1. 3.4 x 2.1 cm heterogeneously enhancing mass in the right 
temporoparietal
lobe with extensive vasogenic edema and 9 mm midline shift to 
the left,
concerning for metastasis given patient's history.
 
Brief Hospital Course:
___ w/ metastatic triple negative breast ca on doxil who p/w new 
onset severe headaches associated w/ N/V found to have a new 
brain mass, concerning for metastatic breast cancer.   

# metastatic breast cancer: pt was followed by neurosurgery, 
onc, neuro onc and radiation oncology while in the hospital.  
Plan was made for surgical resection in the week following 
discharge and she will likely receive adjuvant radiation.  She 
was treated with steroids and keppra while in the hospital, 
ultimately discharged on BID dexamethasone only per neuro onc 
recs.  Pain meds and anti-emetics were titrated to control of 
headache and nausea (tramadol and Compazine) with good effect 
orally.  Pt was fully alert, oriented, independent in all adls, 
ambulation and tolerating po intake normally, voiding normally, 
and feeling well and strong enough to go home by the day of 
discharge.   Plan is for neurosurgery to discuss her case in 
multidisciplinary conference on ___, pt will be 
contacted at home with plans for surgery and further care.   
Neuro checks were normal throughout her hospitalization. 

# CV: pt was started on valsartan and metop for cardioprotection 
after herceptin.  Metop was continued in house and valsartan 
held in setting of nl bps but restarted on discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine 60 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Valsartan 40 mg PO DAILY 
4. Zolpidem Tartrate 5 mg PO QHS 
5. Acetaminophen 1000 mg PO Q8H 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Vitamin E 400 UNIT PO DAILY 
8. Prochlorperazine 10 mg PO Q6H:PRN nausea 
9. LORazepam 0.5 mg PO DAILY:PRN nausea or anxiety or insomnia 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO BID 
Take at 8 AM and 4 ___ 
RX *dexamethasone 4 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 
2.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 1 tablet(s) by mouth every four hours as 
needed for pain Disp #*30 Tablet Refills:*0 
4.  Acetaminophen 1000 mg PO Q8H  
5.  DULoxetine 60 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
8.  Simvastatin 20 mg PO QPM  
9.  Valsartan 40 mg PO DAILY  
10.  Vitamin E 400 UNIT PO DAILY  
11.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic breast cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital for headache and were found to 
have a lesion on your brain concerning for metastasis of your 
breast cancer.  You were treated with pain and nausea control 
and followed by neuro oncology, oncology, radiation oncology and 
neurosurgery.  You will be discharged with plans for surgery 
next week.

As we discussed, the neurosurgery team will be discussing and 
reviewing your case ___.  They will be contacting you 
with the plan of care following this, including plans for 
surgery.  If you have not heard from them by ___ then 
please call them at the numbers below for an update (Dr. ___ 
___, Neurosurgery)
 
Followup Instructions:
___